US08557805B2
{2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid
A mixture of ethyl{2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (690 mg), 1M aqueous sodium hydroxide solution (5 mL), ethanol (5 mL) and tetrahydrofuran (5 mL) was stirred at room temperature for 15 hr. To the reaction solution was added 1M hydrochloric acid (5 mL) and water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crystals were washed with hexane-ethyl acetate mixed solvent to give the title compound (610 mg, yield 95%) as brown crystals.

reactant | ethyl{2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 690 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC1=NC=C(C=C1)S(=O)(=O)C)OC1CCOCC1)=O | C26H29N3O7S2
reactant | sodium hydroxide | 1M, 5 mL | [OH-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1M, 5 mL | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | {2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 610 mg, yield 95% | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C24H25N3O7S2
